* NGSPICE file created from cdec.ext - technology: sky130A

.subckt sky130_fd_pr__cap_mim_m3_1_VXPU36 C2_0 C1_0 C2_1 C1_1 C2_2 C1_2 C2_3 C1_3
+ C2_4 C1_4
X0 C1_1 C2_1 sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X1 C1_4 C2_4 sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X2 C1_0 C2_0 sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X3 C1_2 C2_2 sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X4 C1_3 C2_3 sky130_fd_pr__cap_mim_m3_1 l=20 w=25
.ends


* Top level circuit cdec

XX0 X0/C2_0 X0/C1_0 X0/C2_1 X0/C1_1 X0/C2_2 X0/C1_2 X0/C2_3 X0/C1_3 X0/C2_4 X0/C1_4
+ sky130_fd_pr__cap_mim_m3_1_VXPU36
.end

